US04446141
A suspension of 165 mg of sodium hydride in 10 ml of tetrahydrofuran is cooled at 0° C. To the suspension is added dropwise a solution of 2.2 g of 1-t-butyloxycarbonyl-4-(2-keto-1-benzimidazolinyl)-piperidine in 18 ml of tetrahydrofuran over 30 minutes in a stream of nitrogen. The mixture is stirred at room temperature for 2 hours and 760 mg of ethoxycarbonylchloride is added. The mixture is stirred at room temperature for one hour and 300 mg of ethoxycarbonylchloride is added. The mixture is stirred for 12 hours. The reaction solution is put into ice and the resulting oily product is extracted with ethyl acetate. The extract is washed and dried. Ethyl acetate is distilled away and the resulting residue is recrystallized from n-hexane to obtain 2.4 g of 1-t-butyloxycarbonyl-4-(2-keto-3-ethoxycarbonyl-1-benzimidazolinyl)-piperidine.

reactant | sodium hydride | 165 mg | [H-].[Na+]
reactant | 1-t-butyloxycarbonyl-4-(2-keto-1-benzimidazolinyl)-piperidine | 2.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C17H23N3O3
reactant | ethoxycarbonylchloride | 760 mg | C(C)OC(=O)Cl | C3H5ClO2
reactant | ethoxycarbonylchloride | 300 mg | C(C)OC(=O)Cl | C3H5ClO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
product | 1-t-butyloxycarbonyl-4-(2-keto-3-ethoxycarbonyl-1-benzimidazolinyl)-piperidine | 2.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(N(C2=C1C=CC=C2)C(=O)OCC)=O | C20H27N3O5
